US07834051B2
Benzyl(2S,3S)-3-hydroxy-2,3-dimethylpyrrolidine-1-carboxylate
A suspension of cerium chloride (47 g) in THF (300 mL) was cooled to −78° C., methylmagnesium bromide-diethyl ether solution (56 mL, 3 mol/L) was added dropwise while adjusting the solution temperature to −70° C. or below. After the completion of the dropwise addition, the mixture was stirred at −78° C. for 30 min, a solution of benzyl(2S)-2-methyl-3-oxopyrrolidine-1-carboxylate (18 g) in THF (60 mL) was added dropwise while adjusting the solution temperature to −70° C. or below. The reaction mixture was warmed to 0° C. over 2 hr, ethyl acetate (1 L) was added, and insoluble materials were filtered off. The filtrate was partitioned with water, and the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=9/1→1/1) to give the title compound as a colorless oil (yield: 16.2 g, 84%).

reactant | cerium chloride | 47 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | methylmagnesium bromide diethyl ether | 3 mol/L, 56 mL | C[Mg]Br.C(C)OCC
reactant | benzyl(2S)-2-methyl-3-oxopyrrolidine-1-carboxylate | 18 g | C[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Benzyl(2S,3S)-3-hydroxy-2,3-dimethylpyrrolidine-1-carboxylate | yield: 16.2 g, 84% | O[C@@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)C | C14H19NO3
